US09371289B2
Synthesis of methyl 4-[(1S)-1-[[(3R)-2-(2-(4-fluorophenoxy)ethyl)-3,4-dihydro-1H-isoquinoline-3-carbonyl]amino]ethyl]benzoate
To a mixture of methyl 4-[(1S)-1-[[(3R)-1,2,3,4-tetrahydroisoquinoline-3-carbonyl]amino]ethyl]benzoate hydrochloride (800 mg, 2.13 mmol) and 2-(4-fluorophenoxy)acetaldehyde (493 mg, 3.2 mmol) in 1,2-dichloroethane (10.7 mL), add sodium triacetoxyborohydride (633 mg, 2.99 mmol) and stir the mixture at room temperature overnight. Add saturated aqueous NaHCO3 (25 mL), and extract the aqueous layer with ethyl acetate (2×25 mL). Wash the combined organic layers with saturated aqueous NaCl (25 mL), dry the organic phase over MgSO4, filter, and concentrate the filtrate under reduced pressure. Subject the resulting crude material to flash chromatography on silica gel using a 0% to 60% EtOAc/hexanes gradient. Consolidate the fractions containing the product, and concentrate them under reduced pressure to furnish the title compound as a colorless foam (550 mg, 54% yield). Mass spectrum (m/z): 477 ([M+H]+).

reactant | methyl 4-[(1S)-1-[[(3R)-1,2,3,4-tetrahydroisoquinoline-3-carbonyl]amino]ethyl]benzoate hydrochloride | 2.13 mmol, 800 mg | Cl.C1N[C@H](CC2=CC=CC=C12)C(=O)N[C@@H](C)C1=CC=C(C(=O)OC)C=C1
reactant | 2-(4-fluorophenoxy)acetaldehyde | 3.2 mmol, 493 mg | FC1=CC=C(OCC=O)C=C1 | C8H7FO2
reactant | sodium triacetoxyborohydride | 2.99 mmol, 633 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 10.7 mL | ClCCCl | C2H4Cl2
product | methyl 4-[(1S)-1-[[(3R)-2-(2-(4-fluorophenoxy)ethyl)-3,4-dihydro-1H-isoquinoline-3-carbonyl]amino]ethyl]benzoate | 550 mg, 54% yield | FC1=CC=C(OCCN2CC3=CC=CC=C3C[C@@H]2C(=O)N[C@@H](C)C2=CC=C(C(=O)OC)C=C2)C=C1 | C28H29FN2O4
